US05380834
The serenium derivative obtained by the above reaction was dissolved in 20 ml of dry methylene chloride under an inert atmosphere of nitrogen gas, and 60 mg of m-chloroperbenzoic acid was added thereto at -78° C. The mixture was stirred for 20 minutes and then a saturated sodium hydrogencarbonate aqueous solution was added. The mixture was extracted twice with methylene chloride. The organic layers were put together and washed twice with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The obtained syrup crude product was purified by silica gel thin layer chromatography (methylene chloride) to obtain 1.7 mg of desired 1,6-anhydro-3,4-dideoxy-4-methyl-β-D-glycero-hex-3-enopyranos-2-ulose (Intermediate No. 43) as a colorless transparent liquid. The NMR analytical data of this product are as follows.

reactant | serenium | CCOC=1C=CC(=CC1)N=NC=2C=CC(=CC2N)N.Cl
reactant | m-chloroperbenzoic acid | 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,6-anhydro-3,4-dideoxy-4-methyl-β-D-glycero-hex-3-enopyranos-2-ulose | 1.7 mg | CC1=CC([C@H]2O[C@@H]1CO2)=O | C7H8O3
